US06479487B1
1-(3-Phenoxypropyl)-4-piperidone is prepared from 4-piperidone and 1-chloro-3-phenoxypropane essentially as described above in Example 38, Scheme C, step a.

reactant | 4-piperidone | N1CCC(CC1)=O | C5H9NO
reactant | 1-chloro-3-phenoxypropane | ClCCCOC1=CC=CC=C1 | C9H11ClO
product | 1-(3-Phenoxypropyl)-4-piperidone | O(C1=CC=CC=C1)CCCN1CCC(CC1)=O | C14H19NO2
